US08044068B2
A mixture of 2,4-dichloro-6-methylpyridine 1-oxide (200 mg), 1-((3R,4R)-3-amino-4-hydroxypyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone (340 mg), and n-butanol (0.6 mL) was stirred at 130° C. for 10 h. The reaction mixture was concentrated under reduced pressure, the residue was purified by silica gel column chromatography (NH silica gel, ethyl acetate−ethyl acetate/methanol=20:1), and then the resulting solids were washed with hexane and diethyl ether to obtain 1-((3R,4R)-3-(4-chloro-6-methylpyridin-2-ylamino)-4-hydroxypyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone (75 mg). (2) A mixture of 1-((3R,4R)-3-(4-chloro-6-methylpyridin-2-ylamino)-4-hydroxypyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone (68 mg), morpholine (0.02 mL), sodium t-butoxide (42 mg), Pd(OAc)2 (1 mg), 2-(di-t-butylphosphino)biphenyl (3 mg), and toluene (1 mL) was heated at 100° C. for 10 h. The mixture was cooled to room temperature, then the reaction mixture was diluted with chloroform, insoluble matters were removed by Celite filtration, and then the filtrate was concentrated under reduced pressure. The residue was purified by preparative TLC (NH silica gel, ethyl acetate, and silica gel, hexane/acetone=1:1) to obtain the title compound (8 mg).

reactant | 2,4-dichloro-6-methylpyridine 1-oxide | 200 mg | ClC1=[N+](C(=CC(=C1)Cl)C)[O-] | C6H5Cl2NO
reactant | 1-((3R,4R)-3-amino-4-hydroxypyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone | 340 mg | N[C@@H]1CN(C[C@H]1O)C(CC1=CC=C(C=C1)OC(F)(F)F)=O | C13H15F3N2O3
solvent | n-butanol | 0.6 mL | C(CCC)O | C4H10O
product | 1-((3R,4R)-3-(4-chloro-6-methylpyridin-2-ylamino)-4-hydroxypyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone | 75 mg | ClC1=CC(=NC(=C1)C)N[C@@H]1CN(C[C@H]1O)C(CC1=CC=C(C=C1)OC(F)(F)F)=O | C19H19ClF3N3O3
